US07067517B2
Methyl-phenyl-carbamic acid 2-bromo-imidazol-1-yl ester
The title compound was prepared from 1-hydroxy-2-bromoimidazole, hydrochloride and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (63%, oil).

reactant | 1-hydroxy-2-bromoimidazole, hydrochloride | Cl.ON1C(=NC=C1)Br
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 2-bromo-imidazol-1-yl ester | BrC=1N(C=CN1)OC(N(C1=CC=CC=C1)C)=O | C11H10BrN3O2
